US07396847B2
N-[3-(4-Bromo-phenyl)-4,5-dihydro-isoxazol-5-ylmethyl]-acetamide
[3-(4-Bromo-phenyl)-4,5-dihydro-isoxazol-5-yl]-methylamine (10 g, 39.1 mmol) and triethylamine (8.2 ml, 58.6 mmol) were added to anhydrous dichloromethane (100 ml) and cooled to 0° C. Acetyl chloride (3.0 ml, 43.6 mmol) was then added dropwise and the reaction was stirred for 3 hours followed by addition of ethyl acetate (200 ml). The precipitate was collected, washed with water (2×100 ml), and finally with ethyl ether (2×50 ml) to give the desired product (6.9 g).

reactant | [3-(4-Bromo-phenyl)-4,5-dihydro-isoxazol-5-yl]-methylamine | 39.1 mmol, 10 g | BrC1=CC=C(C=C1)C1=NOC(C1)NC | C10H11BrN2O
reactant | triethylamine | 58.6 mmol, 8.2 ml | C(C)N(CC)CC | C6H15N
reactant | dichloromethane | 100 ml | ClCCl | CH2Cl2
reactant | Acetyl chloride | 43.6 mmol, 3.0 ml | C(C)(=O)Cl | C2H3ClO
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | N-[3-(4-Bromo-phenyl)-4,5-dihydro-isoxazol-5-ylmethyl]-acetamide | 6.9 g | BrC1=CC=C(C=C1)C1=NOC(C1)CNC(C)=O | C12H13BrN2O2
